US08809331B2
To 5-chloro-2-methyl-4-nitrobenzoic acid (197 mg, 0.91 mmol) in DMF (5 mL) was added triethylamine (0.13 mL, 0.91 mmol) and HATU (345 mg, 0.91 mmol) followed by morpholine (0.08 mL, 0.91 mmol). The mixture was allowed to stir at RT for 18 h and then water (10 mL) and DCM were added. The organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-100% EtOAc in iso-hexane) gave (5-chloro-2-methyl-4-nitrophenyl)(morpholino)methanone (244 mg, 95%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=285 at 3.05 min. 1H NMR (400 MHz, CDCl3): δ 7.76 (s, 1H), 7.36 (s, 1H), 3.83-3.76 (m, 4H), 3.66-3.58 (m, 2H), 3.28-3.20 (m, 2H), 2.37 (s, 3H).

reactant | 5-chloro-2-methyl-4-nitrobenzoic acid | 0.91 mmol, 197 mg | ClC=1C(=CC(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6ClNO4
reactant | triethylamine | 0.91 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.91 mmol, 345 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.91 mmol, 0.08 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | (5-chloro-2-methyl-4-nitrophenyl)(morpholino)methanone | 244 mg, 95% | ClC=1C(=CC(=C(C1)C(=O)N1CCOCC1)C)[N+](=O)[O-] | C12H13ClN2O4
